US05064844
4-Bromomethyl-2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole (9.55 g), potassium thiocyanate (1 g) and tetrahydrofuran (50 ml) were heated under reflux for 3 hours. The mixture was poured into water, solid collected and recrystallised from ethyl aceteate/hexane to give 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-thiocyanato-methyl-2H-1,2,3-triazole, m.p. 115°-117°. (Compound 23)

reactant | 4-Bromomethyl-2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole | 9.55 g | BrCC1=NN(N=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C10H5BrCl2F3N3
reactant | potassium thiocyanate | 1 g | [S-]C#N.[K+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-thiocyanato-methyl-2H-1,2,3-triazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=N1)SC#N)C | C11H5Cl2F3N4S
